US06376515B2
To a solution of 4-{2-{[(tert-butyl)amino}sulfonyl}phenyl}benzoic acid (167 mg, 0.5 mmol) in dichloromethane (5 ml) was added oxalyl chloride (0.09 ml, 1 mmol) and a few drops of dimethylformamide. The mixture was stirred at r.t. for 2 hrs. After the evaporation of the solvent, the residue was dissolved in dichloromethane (5 ml). The compound of (2-amino-5-chlorophenyl)-N-(5-chloro(2-pyridyl))carboxamide (0.17 g, 0.6 mmol) and pyridine (0.122 ml, 1.5 mmol) were added to the solution. The mixture was stirred at r.t. overnight. The solvent was evaporated to give (2-{[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl]-carbonylamino}-5-chlorophenyl)-N-(5-chloro(2-pyridyl))carboxamide. MS found for C29H26Cl2N4O4S M+=597, (M+2)+=599.

reactant | 4-{2-{[(tert-butyl)amino}sulfonyl}phenyl}benzoic acid | 0.5 mmol, 167 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C(=O)O)C=C1 | C17H19NO4S
reactant | oxalyl chloride | 1 mmol, 0.09 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2-amino-5-chlorophenyl)-N-(5-chloro(2-pyridyl))carboxamide | 0.6 mmol, 0.17 g | NC1=C(C=C(C=C1)Cl)C(=O)NC1=NC=C(C=C1)Cl | C12H9Cl2N3O
reactant | pyridine | 1.5 mmol, 0.122 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | (2-{[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl]-carbonylamino}-5-chlorophenyl)-N-(5-chloro(2-pyridyl))carboxamide | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)NC1=C(C=C(C=C1)Cl)C(=O)NC1=NC=C(C=C1)Cl | C29H26Cl2N4O4S
